US07132426B2
Preparation of [1-(2-Fluoro-4-methanesulfonyl-phenyl)-1H-pyrazolo[3,4-d]pyrimidin-4-yl]-[1-(3-isopropyl-[1,2,4]oxadiazol-5-ylmethyl)-pyrrolidin-3-yl]-amine (Compound A133)
A mixture of 1-(3-isopropyl-[1,2,4]oxadiazol-5-ylmethyl)-pyrrolidin-3-ylamine (354 mg, 1.68 mmol), 4-chloro-1-(2-fluoro-4-methanesulfonyl-phenyl)-1H-pyrazolo[3,4-d]pyrimidine (500 mg, 1.53 mmol), and potassium carbonate (3.18 g, 23 mmol) in THF (20 mL) was refluxed for 2 hours. Water was added to the reaction mixture and the product was extracted with ethylacetate. The ethylacetate layer was dried over MgSO4. The organic layer was concentrated in vacuo to afford compound A133 as a white solid (700 mg, 91%). Exact mass calculated for C22H25FN8O3S 500.18, found 501.1 (MH+).

reactant | 1-(3-isopropyl-[1,2,4]oxadiazol-5-ylmethyl)-pyrrolidin-3-ylamine | 1.68 mmol, 354 mg | C(C)(C)C1=NOC(=N1)CN1CC(CC1)N | C10H18N4O
reactant | 4-chloro-1-(2-fluoro-4-methanesulfonyl-phenyl)-1H-pyrazolo[3,4-d]pyrimidine | 1.53 mmol, 500 mg | ClC1=C2C(=NC=N1)N(N=C2)C2=C(C=C(C=C2)S(=O)(=O)C)F | C12H8ClFN4O2S
reactant | potassium carbonate | 23 mmol, 3.18 g | C([O-])([O-])=O.[K+].[K+]
reactant | Water | O | H2O
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | [1-(2-Fluoro-4-methanesulfonyl-phenyl)-1H-pyrazolo[3,4-d]pyrimidin-4-yl]-[1-(3-isopropyl-[1,2,4]oxadiazol-5-ylmethyl)-pyrrolidin-3-yl]-amine | 700 mg, 91% | FC1=C(C=CC(=C1)S(=O)(=O)C)N1N=CC=2C1=NC=NC2NC2CN(CC2)CC2=NC(=NO2)C(C)C | C22H25FN8O3S
